US08748624B2
STEP D: ethyl 3-(5-(2-(((2-chloro-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)amino)methyl)-3-methoxy-5-(trifluoromethyl)phenyl)picolinamido)propanoate
Solid NaBH(OAc)3 (74 mg, 0.35 mmol) was added to a DCE solution (1 mL) of ethyl 3-(5-(2-formyl-3-methoxy-5-(trifluoromethyl)phenyl)picolinamido)propanoate (98 mg, 0.23 mmol), 2-chloro-4′-(trifluoromethyl)-[1,1-biphenyl]-4-amine (63 mg, 0.23 mmol) and HOAc (0.01 mL, 0.23 mmol) the resulting mixture was stirred at room temperature. After 16 h the resulting mixture diluted with DCM and washed with saturated aqueous NaHCO3 and water. The organic layer was dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | NaBH(OAc)3 | 0.35 mmol, 74 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | ethyl 3-(5-(2-formyl-3-methoxy-5-(trifluoromethyl)phenyl)picolinamido)propanoate | 0.23 mmol, 98 mg | C(=O)C1=C(C=C(C=C1OC)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C20H19F3N2O5
reactant | 2-chloro-4′-(trifluoromethyl)-[1,1-biphenyl]-4-amine | 0.23 mmol, 63 mg | ClC1=C(C=CC(=C1)N)C1=CC=C(C=C1)C(F)(F)F | C13H9ClF3N
reactant | HOAc | 0.23 mmol, 0.01 mL | CC(=O)O | C2H4O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
product | ethyl 3-(5-(2-(((2-chloro-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)amino)methyl)-3-methoxy-5-(trifluoromethyl)phenyl)picolinamido)propanoate | ClC1=C(C=CC(=C1)NCC1=C(C=C(C=C1OC)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C33H28ClF6N3O4
